US07071201B2
(53-1) 1-t-butoxycarbonyl-6-bromoindoline
Di-t-butyl carbonate (6.7 g) was added to a solution of 6-bromoindoline (5.1 g) and triethylamine (3.1 g) in tetrahydrofuran (50 ml) followed by stirring the resultant mixture at room temperature overnight. After adding water and ethyl acetate thereto, the layers were separated and the organic layer was washed with brine and dried over anhydrous magnesium sulfate. The residue was then purified by silica gel column chromatography (hexane/ethyl acetate system) to give the title compound (5.5 g) as a colorless oil (yield: 71%).

reactant | Di-t-butyl carbonate | 6.7 g | C(OC(C)(C)C)(OC(C)(C)C)=O | C9H18O3
reactant | 6-bromoindoline | 5.1 g | BrC1=CC=C2CCNC2=C1 | C8H8BrN
reactant | triethylamine | 3.1 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-t-butoxycarbonyl-6-bromoindoline | 5.5 g, yield: 71% | C(C)(C)(C)OC(=O)N1CCC2=CC=C(C=C12)Br | C13H16BrNO2
